US05606051
N-Phenylalanine (825 mg) in 1,2-dimethoxyethane (20 ml) was treated with n-butyl nitrite (0.64 ml) and the mixture was stirred for 2.5 h and then the solvent was removed to leave crude N-nitroso-N-phenylalanine. This was dissolved in dichloromethane (10 ml), cooled in an ice-bath and treated with trifluoroacetic anhydride (1.06 ml). The mixture was stirred for 1 h and then the solvents were removed, toluene was added and removed using a rotary evaporator. The residue was chromatographed on silica gel eluting with ethanol/chloroform mixtures to give the sydnone (1 g), νmax (CH2Cl2) 1803(sh), 1763(sh), 1734, 1485, 1243, and 1065 cm-1 ; δ(CDCl3) 2.16 (3H,s), 7.51-7.73 (5H, m); Found m/z 176.0590; C9H8N2O2 requires 176.0586. The sydnone in xylene (8 ml) was treated with ethynyltributylstannane and the mixture was heated under reflux for 8 h. After standing for 16 h at room temperature the mixture was diluted with hexane(15 ml) and loaded onto silica gel and eluted with hexane (100 ml) followed by hexane/ethyl acetate mixtures to give 5-methyl-2-phenyl-3-(tri-n-butylstannyl)pyrazole (602 mg), δ(CDCl3) 0.87-1.76 (27H, m), 2.35 (3H, s), 6.25 (1H, s), 7.26-7.47 Found m/z 448. 1900. C22H36N2Sn requires 448. 1900.

reactant | N-Phenylalanine | 825 mg | C1(=CC=CC=C1)N[C@@H](C)C(=O)O | C9H11NO2
reactant | n-butyl nitrite | 0.64 ml | N(=O)OCCCC | C4H9NO2
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
product | N-nitroso-N-phenylalanine | N(=O)N([C@@H](C)C(=O)O)C1=CC=CC=C1 | C9H10N2O3
